US07160887B1
Aqueous 1 N sodium hydroxide solution (41.7 ml, 41.7 mmols) was added to a solution of methyl 4-(2-nitrophenoxy)phenylacetate (2.7 g, 9.3 mmols) in tetrahydrofuran (50 ml) and methanol (50 ml). The resulting mixture was stirred at 40° C. for 1 hour. Water and potassium hydrogensulfate (5.68 g, 41.7 mmols) were added to the reaction mixture, which was then extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the resulting solid was recrystallized from ethyl acetate/hexane to give a crystal of 4-(2-nitrophenoxy)phenylacetic acid (1.83 g, 71.8%).

reactant | sodium hydroxide | 41.7 mmols, 1 N, 41.7 ml | [OH-].[Na+]
reactant | methyl 4-(2-nitrophenoxy)phenylacetate | 9.3 mmols, 2.7 g | [N+](=O)([O-])C1=C(OC2=CC=C(C=C2)CC(=O)OC)C=CC=C1 | C15H13NO5
reactant | Water | O | H2O
reactant | potassium hydrogensulfate | 41.7 mmols, 5.68 g | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | 4-(2-nitrophenoxy)phenylacetic acid | 1.83 g, 71.8% | [N+](=O)([O-])C1=C(OC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C14H11NO5
